US05972975
By analogy to Example 56, Step B, 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(3-(2,5-dimethylpyrrol-1-yl)propyl)pyridine was treated with 9.2 equivalents of hydroxylamine hydrochloride and 5.4 equivalents of potassium hydroxide in refluxing ethanol/water to yield 2-amino-6-(3-aminopropyl)-4-methylpyridine.

reactant | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(3-(2,5-dimethylpyrrol-1-yl)propyl)pyridine | CC1=CC(=NC(=C1)CCCN1C(=CC=C1C)C)N1C(=CC=C1C)C | C21H27N3
reactant | hydroxylamine hydrochloride | 9.2 equivalents | Cl.NO
reactant | potassium hydroxide | 5.4 equivalents | [OH-].[K+]
solvent | ethanol water | C(C)O.O
product | 2-amino-6-(3-aminopropyl)-4-methylpyridine | NC1=NC(=CC(=C1)C)CCCN | C9H15N3
